US08912329B2
5-(Pyridin-2-ylmethyl)pyrrolidin-2-one is synthesized from pyrrolidine-2,5-dione and 2-(bromomethyl)pyridine according to S. Lebrun et al. (Tetrahedron Asymmetry 2003, 14, 2625-2632).

reactant | pyrrolidine-2,5-dione | N1C(CCC1=O)=O | C4H5NO2
reactant | 2-(bromomethyl)pyridine | BrCC1=NC=CC=C1 | C6H6BrN
product | 5-(Pyridin-2-ylmethyl)pyrrolidin-2-one | N1=C(C=CC=C1)CC1CCC(N1)=O | C10H12N2O
